US04540815
208 parts of dried crude 6-n-propoxy-3-acetylamino-aniline obtained according to Example 7 of European Pat. No. 0,011,048 (containing, in addition to 190.3 parts of target product, 8.8 parts of 2,4-bis-acetylamino-1-n-propoxybenzene and 3.5 parts of 2,4-diamino-1-n-propoxybenzene, as well as small amounts of magnesium acetate and oxidative decomposition products) are dissolved in 300 parts of ethanol at 50° C., with stirring, and, after the solution has been cooled to 25° C., 170 parts of 48% strength hydrobromic acid are added dropwise in the course of 1.5 hours. The precipitate which has separated out is filtered off with suction at 0°-5° C., washed with two portions of 60 parts of ethanol and dried in vacuo. 257.1 parts of 6-n-propoxy-3-acetylamino-aniline hydrobromide (no impurities detectable by HPLC, purity by diazotization: 99.4%) are obtained, which corresponds to a yield of 88.9% of theory (based on the crude feed product) or 97.2% of theory (based on the target product contained therein).

reactant | 2,4-bis-acetylamino-1-n-propoxybenzene | C(C)(=O)NC1=C(C=CC(=C1)NC(C)=O)OCCC | C13H18N2O3
reactant | 2,4-diamino-1-n-propoxybenzene | NC1=C(C=CC(=C1)N)OCCC | C9H14N2O
reactant | magnesium acetate | C(C)(=O)[O-].[Mg+2].C(C)(=O)[O-]
reactant | hydrobromic acid | Br | BrH
solvent | ethanol | C(C)O | C2H6O
product | 6-n-propoxy-3-acetylamino-aniline hydrobromide | yield of 88.9% | Br.C(CC)OC1=CC=C(C=C1N)NC(C)=O | InChI=1S/C11H16N2O2.BrH/c1-3-6-15-11-5-4-9(7-10(11)12)13-8(2)14;/h4-5,7H,3,6,12H2,1-2H3,(H,13,14);1H
